US09340546B2
Tert-butyl 3-(4-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperazine-1-carbonyl)azetidine-1-carboxylate (73 mg, 0.1309 mmol) (prepared using a procedure similar to Example 8) was dissolved in DCM (219.0 μL). TFA (298.5 mg, 201.7 μL, 2.618 mmol) was added and the mixture was stirred at RT for 2 hr. The reaction mixture was concentrated in vacuo and the residue was purified by fractionlynx yielding 2-amino-N-(4-(4-(azetidine-3-carbonyl)piperazin-1-yl)-5-fluoropyridin-3-yl)-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamide as a cream solid. MS (ES+) 458.1.

reactant | Tert-butyl 3-(4-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperazine-1-carbonyl)azetidine-1-carboxylate | 0.1309 mmol, 73 mg | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCN(CC1)C(=O)C1CN(C1)C(=O)OC(C)(C)C)F | C25H29F2N9O4
reactant | TFA | 2.618 mmol, 201.7 μL, 298.5 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 219.0 μL | C(Cl)Cl | CH2Cl2
product | 2-amino-N-(4-(4-(azetidine-3-carbonyl)piperazin-1-yl)-5-fluoropyridin-3-yl)-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCN(CC1)C(=O)C1CNC1)F | C20H21F2N9O2
